US04504412
20 Grams (0.13 moles) of 2-(4-methylphenoxy)ethanol (prepared above) and 100 ml of dry methanol are charged to a Parr shaker bottle. N2 is bubbled through for 15 minutes. 2 Grams of 5% rhodium on carbon are then added and the shaker bottle set in a Parr apparatus. The system is purged three times with H2 and then pressurized to 30 psi. Hydrogen is periodically added over a period of about 20 hours up to a maximum pressure of 30 psi. The catalyst is then filtered off over dicalite and methanol is removed by evaporation. The product is distilled utilizing a 4" glass column packed with glass beads to obtain 80.9% 2-(4-methylcyclohexoxy)ethanol product.

reactant | 2-(4-methylphenoxy)ethanol | 0.13 moles | CC1=CC=C(OCCO)C=C1 | C9H12O2
solvent | methanol | 100 ml | CO | CH4O
product | 2-(4-methylcyclohexoxy)ethanol | 80.9% | CC1CCC(CC1)OCCO | C9H18O2
